US09226916B2
rac-[(3R,4S)-1-(1-Acetyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester
In analogy to the procedure described for the synthesis of example 44 (step c), the title compound rac-[(3R,4S)-1-(1-acetyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester was prepared from rac-[(3R,4S)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester using 1-acetylpiperidine-4-carboxylic acid instead of 1-methylcyclopropane-1-carboxylic acid and was obtained as a brown oil. MS m/e: 536.1 [M]+.

reactant | rac-[(3R,4S)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@H]1CNC[C@@H]1C1=CC(=C(C=C1)Cl)Cl)=O | C18H17Cl2FN2O2
reactant | 1-acetylpiperidine-4-carboxylic acid | C(C)(=O)N1CCC(CC1)C(=O)O | C8H13NO3
product | rac-[(3R,4S)-1-(1-acetyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)C(=O)C1CCN(CC1)C(C)=O)=O | C26H28Cl2FN3O4
